US07169797B2
1-((tert-butyl(dimethyl)silyl)oxy)but-3-en-2-ol
t-Butyl dimethylsilylchloride (4.28 g, 28.4 mmol) and imidazole (4.83 g, 70.9 mmol) were added to a flask purged with N2 and dichloromethane (50 mL) was added. 3-Butene-1,2-diol (2.50 g, 28.4 mmol) was then added to the flask and the mixture was stirred for 2 hours. The solvent was removed and the titled product (2.71 g, 47.9%) was purified by column chromatography (5% ethyl acetate in hexanes).

reactant | t-Butyl dimethylsilylchloride | 28.4 mmol, 4.28 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 70.9 mmol, 4.83 g | N1C=NC=C1 | C3H4N2
reactant | 3-Butene-1,2-diol | 28.4 mmol, 2.50 g | C(C(C=C)O)O | C4H8O2
product | 1-((tert-butyl(dimethyl)silyl)oxy)but-3-en-2-ol | [Si](C)(C)(C(C)(C)C)OCC(C=C)O | C10H22O2Si
